US05350762
1,2,3,4-Tetrahydro-7-phenylmethoxy-N,4 -dimethylcyclopent[b]indole-2-carboxylic acid amide
In a 50 ml sealed tube, was added a solution of 1,2,3,4-tetrahydro-7-phenylmethoxy-4-methylcyclopent[b]indole-2-carboxylic acid ethyl ester (10 g, 0.03 mole) in 25 ml absolute ethanol, followed by methylamine (40% aqueous solution, 10 ml, 0.13 mole). After stirring at 100° C. for six days, the mixture was cooled. A tan solid precipitated, which was collected and dried to give 7.0 g of the product as a solid, m.p. 176°-177° C. A sample of this solid was recrystallized from ethanol/ether (1:1) to give white crystals, m.p. 181°-182° C.

reactant | 1,2,3,4-tetrahydro-7-phenylmethoxy-4-methylcyclopent[b]indole-2-carboxylic acid ethyl ester | 0.03 mole, 10 g | C(C)OC(=O)C1CC2=C(N(C=3C=CC(=CC23)OCC2=CC=CC=C2)C)C1 | C22H23NO3
reactant | methylamine | 0.13 mole, 10 ml | CN | CH5N
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | 1,2,3,4-Tetrahydro-7-phenylmethoxy-N,4 -dimethylcyclopent[b]indole-2-carboxylic acid amide | 7.0 g | C1(=CC=CC=C1)COC1=CC=2C3=C(N(C2C=C1)C)CC(C3)C(=O)NC | C21H22N2O2
